US05041448
A mixture of 1.2 parts of bromo-1-propene, 3.26 parts of 9-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-9H-purin-8-amine, 1.5 parts of sodium hydrogen carbonate and 40 parts of ethanol was stirred for 1 hour at reflux temperature. The reaction mixture was filtered over diatomaceous earth while hot and the filtrate was evaporated. The residue was taken up in water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 0.8 parts (22%) of 9-[(4-fluorophenyl)methyl]-N-[1-(2-propenyl)-4-piperidinyl)-9H-purin-8-amine; mp. 144.8° C. (compound 120).

reactant | bromo-1-propene | BrC=CC | C3H5Br
reactant | 9-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-9H-purin-8-amine | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1NC1CCNCC1 | C17H19FN6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 9-[(4-fluorophenyl)methyl]-N-[1-(2-propenyl)-4-piperidinyl)-9H-purin-8-amine | 22% | FC1=CC=C(C=C1)CN1C2=NC=NC=C2N=C1NC1CCN(CC1)CC=C | C20H23FN6
